US04339443
Sodium acetylmethylphosphinate thiosemicarbazone
A mixture of sodium acetylmethylphosphinate (3.5 g) and thiosemicarbazide (2.2 g) was stirred in ethanol (15 ml) for 4 days. The precipitated hydrazone was filtered off and dried (4.6 g). The n.m.r spectrum supports the required structure. The compound slowly decomposes above 125°.

reactant | sodium acetylmethylphosphinate | 3.5 g | C(C)(=O)CP([O-])=O.[Na+]
reactant | thiosemicarbazide | 2.2 g | NNC(=S)N | CH5N3S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Sodium acetylmethylphosphinate thiosemicarbazone | C(C)(CP([O-])=O)=NNC(=S)N.[Na+] | InChI=1S/C4H10N3O2PS.Na/c1-3(2-10(8)9)6-7-4(5)11;/h10H,2H2,1H3,(H,8,9)(H3,5,7,11);/q;+1/p-1
